US04696949
(a) 4-benzyloxy-1,2-diphenylbutan-1-one
This compound is prepared from 19.6 g of desoxybenzoin and 21.5 g of benzylether-protected bromoethanol according to the procedure described in Example 1(a).

reactant | desoxybenzoin | 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | benzylether | 21.5 g | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | bromoethanol | BrC(C)O | C2H5BrO
product | 4-benzyloxy-1,2-diphenylbutan-1-one | C(C1=CC=CC=C1)OCCC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H22O2
